US06479536B1
(−)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-ethylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline Hydrochloride
By using (−)-5,6-dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline, the title compound was synthesized according to Example 19a. Yield: 61%. Melting point: 173-175° C. [α]D=−44.4° (c=0.501, chloroform)

reactant | (−)-5,6-dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline | COC=1C=C2CN(CC2=CC1OC)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | C30H35NO3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (−)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-ethylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline Hydrochloride | Yield: 61% | Cl.COC=1C=C2CN(CC2=CC1OC)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)CC)C1C)C)C | InChI=1S/C31H37NO3.ClH/c1-9-21-10-12-22(13-11-21)28-27-20(4)29(18(2)19(3)30(27)35-31(28,5)6)32-16-23-14-25(33-7)26(34-8)15-24(23)17-32;/h10-15,28H,9,16-17H2,1-8H3;1H
